US04810713
4-[Bis(4-chlorophenyl)methylene]piperidine hydrobromide hydrate [1:1:1]
A mixture of 69.33 g (0.146 mole) of α,α-bis(4-chlorophenyl)-1-(phenylsulfonyl)-4-piperidinemethanol and 26 g (0.277 mole) of phenol in 400 ml of 48% hydrobromic acid was refluxed for 6 hr and then was stirred at room temperature for 10 hr. The reaction solution was decanted from a gun which had formed in the bottom of the reaction flask. The gum was washed with several portions of water and then was crystallized from ether to give a solid. The solid was recrystallized from a mixture of methanoldiethyl ether to give 26.52 g (43.6%) of white crystalline solid, m.p. 106°-109° C.

reactant | α,α-bis(4-chlorophenyl)-1-(phenylsulfonyl)-4-piperidinemethanol | 0.146 mole, 69.33 g | ClC1=CC=C(C=C1)C(O)(C1CCN(CC1)S(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C24H23Cl2NO3S
reactant | phenol | 0.277 mole, 26 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | 400 ml | Br | BrH
product | 4-[Bis(4-chlorophenyl)methylene]piperidine hydrobromide hydrate | 26.52 g, 43.6% | O.Br.ClC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=C(C=C1)Cl | InChI=1S/C18H17Cl2N.BrH.H2O/c19-16-5-1-13(2-6-16)18(15-9-11-21-12-10-15)14-3-7-17(20)8-4-14;;/h1-8,21H,9-12H2;1H;1H2
